US08106064B2
3-[[3-(2-Fluoro-pyridin-4-ylmethyl)-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl]-(4-methoxy-benzyloxyimino)-methyl]-5-methyl-benzonitrile (158):
3-[(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-(4-methoxybenzyloxyimino)-methyl]-5-methyl-benzonitrile (71 mg, 0.164 mmol, 1.2 eq.) was dissolved in 2.0 mL DMF. Potassium carbonate (19 mg, 0.137 mmol, 1 eq.) and 4-bromomethyl-2-fluoro-pyridine (26 mg, 1 eq.) were added to the reaction, followed by lithium iodide (18 mg, 1 eq.) The reaction was stirred at room temperature overnight. Ethyl acetate was added to the reaction mixture, followed by washing with brine. The organic layer was concentrated down and purified (silica gel, 20-80% EtOAc/hexane) to white powder (32 mg, 36%). LC-MS shows 542.2 (M+1). 1H NMR (300 MHz, CDCl3): δ 8.80 (br, 1H), 7.93 (d, 1H), 7.62 (s, 1H), 7.42 (s, 1H), 7.32 (d, 2H), 7.21 (s, 1H), 6.92 (d, 2H), 6.72 (d, 1H), 6.40 (s, 1H), 5.08 (dd, 2H), 4.90 (d, 1H), 4.22 (d, 1H), 3.80 (s, 3H), 2.32 (s, 3H), 2.20 (m, 1H), 1.16 (d, 3H), 1.12 (d, 3H).

reactant | 3-[(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-(4-methoxybenzyloxyimino)-methyl]-5-methyl-benzonitrile | 0.164 mmol, 71 mg, 1.2 eq. | C(C)(C)C1=C(NC(NC1=O)=O)C(C=1C=C(C#N)C=C(C1)C)=NOCC1=CC=C(C=C1)OC | C24H24N4O4
reactant | Potassium carbonate | 0.137 mmol, 19 mg, 1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromomethyl-2-fluoro-pyridine | 26 mg, 1 eq. | BrCC1=CC(=NC=C1)F | C6H5BrFN
reactant | lithium iodide | 18 mg, 1 eq. | [I-].[Li+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[[3-(2-Fluoro-pyridin-4-ylmethyl)-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl]-(4-methoxy-benzyloxyimino)-methyl]-5-methyl-benzonitrile | FC1=NC=CC(=C1)CN1C(NC(C(=C1C(C=1C=C(C#N)C=C(C1)C)=NOCC1=CC=C(C=C1)OC)C(C)C)=O)=O | C30H28FN5O4
